US06696461B2
5. 8-Benzyloxy-6-hydroxymethyl-2,3-dimethylimidazo[1,2-a]pyridine
A solution of 1.2 g of 8-benzyloxy-6-ethoxycarbonyl-2,3-dimethylimidazo[1,2-a]pyridine in 20 ml of tetrahydrofuran is treated in small portions with 0.2 g of lithium aluminum hydride at room temperature, stirred for one hour and treated successively with 0.2 ml of water, 0.2 ml of 6 molar sodium hydroxide solution and 0.6 ml of water. It is then extracted twice with methylene chloride (50 ml each), the combined organic phases are concentrated to dryness in vacuo and the residue is purified on silica gel (eluent: methylene chloride/methanol 13/1). 0.4 g of the title compound of melting point 213-5° C. (acetone) is obtained.

reactant | 8-benzyloxy-6-ethoxycarbonyl-2,3-dimethylimidazo[1,2-a]pyridine | 1.2 g | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)C(=O)OCC)C(=C(N2)C)C | C19H20N2O3
reactant | lithium aluminum hydride | 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.2 ml | O | H2O
reactant | sodium hydroxide | 6 molar, 0.2 ml | [OH-].[Na+]
reactant | water | 0.6 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 8-Benzyloxy-6-hydroxymethyl-2,3-dimethylimidazo[1,2-a]pyridine | 0.4 g | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)CO)C(=C(N2)C)C | C17H18N2O2
